US05521179
To 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (0.295 g) suspended in redistilled tetrahydrofuran (5 mL) was added 4-methoxyphenylacetic acid (0.97 g), followed by 1-hydroxybenzotriazole hydrate (0.156 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.123 g). The reaction was shown by TLC to be incomplete after overnight stirring; therefore, triethylamine (0.08 mL) and 4-dimethylaminopyridine (catalytic amount) were added to the mixture. After stirring 1 h, additional acid (0.098 g), 1-(3-dimethylaminopropylpropyl)-3-ethylcarbodiimide hydrochloride (0.123 g), triethylamine (0.08 mL), and 1-hydroxybenzotriazole (0.156 g) were added. Additional tetrahydrofuran (2 mL) was added to facilitate stirring. After stirring overnight TLC indicated little change in the reaction mixture which was diluted with ethyl acetate (50 mL); washed with water (twice), saturated aqueous sodium bicarbonate (three times) and brine; dried; and evaporated. Purification by chromatography, eluting with ethanol:ethyl acetate:dichloromethane (0.5:5:94.5) gave N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-[3-(4-methoxyphenyl)acetylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]acetamide (0.235 g); TLC (of crude reaction mixture): Rf =0.88, methanol:dichloromethane (4:96); MS: m/z=660(M+1).

reactant | 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 0.295 g | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C25H36F3N3O3Si
reactant | 4-methoxyphenylacetic acid | 0.97 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | 1-hydroxybenzotriazole hydrate | 0.156 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.123 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-(3-dimethylaminopropylpropyl)-3-ethylcarbodiimide hydrochloride | 0.123 g | Cl.CN(CCCC(CC)N=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.156 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 0.08 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.08 mL | C(C)N(CC)CC | C6H15N
product | N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-[3-(4-methoxyphenyl)acetylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]acetamide | 0.235 g | [Si](C)(C)(C(C)(C)C)OC(C(C(C)C)NC(CN1C(C(=CC=C1C1=CC=CC=C1)NC(CC1=CC=C(C=C1)OC)=O)=O)=O)C(F)(F)F | C34H44F3N3O5Si
